US05457097
A mixture of sodium acetate (1 g), anhydrous chloroform (30 ml), formaldehyde diethyl acetal (30 ml, 0.24 mol), phosphoryl chloride (3.8 ml, 0.04 mol), and androst-4-ene-3,17-dione (0.78 g, 2.7 mmol) was stirred at reflux for about 7 hours, i.e. until the starting material had disappeared. The suspension was allowed to cool and under vigorous stirring a saturated sodium carbonate solution was added dropwise until the pH of the aqueous layer became alkaline. The organic layer was separated, neutralized with water washings, and dried with sodium sulfate. After concentration under reduced pressure the oily residue was purified by chromatography on silica gel using hexane/ethylacetate as eluant. Thus almost pure 6-methylenandrost-4-ene-3,17-dione was obtained in 60% yield (0.843 g).

reactant | sodium acetate | 1 g | C(C)(=O)[O-].[Na+]
reactant | formaldehyde diethyl acetal | 0.24 mol, 30 ml | C(C)OCOCC | C5H12O2
reactant | phosphoryl chloride | 0.04 mol, 3.8 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | androst-4-ene-3,17-dione | 2.7 mmol, 0.78 g | C[C@@]12C(CC[C@H]1[C@@H]1CCC3=CC(CC[C@]3(C)[C@H]1CC2)=O)=O | C19H26O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-methylenandrost-4-ene-3,17-dione | 60% yield | C=C1C[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(CCC(C=C12)=O)C)=O | C20H26O2
